US07820815B2
c. 1-[(3-Cyanopyridin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-phthalimidopiperidin-1-yl)-xanthine
230 g (0.557 mol) of 1-[(3-cyanopyridin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-bromoxanthine, 318 g (0.835 mol) of 3-(phthalimido)piperidine D-tartrate and 1.15 litres of N-methyl-2-pyrrolidone are initially charged in the reactor. The reactor contents are heated to 140° C. After the temperature has been attained, 478 ml (2.78 mol) of diisopropylethylamine are metered in within 20 minutes and the reaction mixture is subsequently stirred at 140° C. for 2 hours. Subsequently, the reaction mixture is cooled to 75° C. and diluted with 720 ml of methanol. Afterwards, 2.7 litres of water are added at 68-60° C. and the mixture is cooled to 25° C. The product is filtered off and washed with 2 litres of water. Drying is effected at 70° C. in a drying cabinet under inertization.

reactant | 1-[(3-cyanopyridin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-bromoxanthine | 0.557 mol, 230 g | C(#N)C=1C(=NC=CC1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C | C17H13BrN6O2
reactant | 3-(phthalimido)piperidine D-tartrate | 0.835 mol, 318 g | C(=O)(O)[C@@H](O)[C@H](O)C(=O)O.C1(C=2C(C(N1C1CNCCC1)=O)=CC=CC2)=O
reactant | N-methyl-2-pyrrolidone | 1.15 litres | CN1C(CCC1)=O | C5H9NO
reactant | diisopropylethylamine | 2.78 mol, 478 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methanol | 720 ml | CO | CH4O
solvent | water | 2.7 litres | O | H2O
product | 1-[(3-Cyanopyridin-2-yl)methyl]-3-methyl-7-(2-butin-1-yl)-8-(3-(R)-phthalimidopiperidin-1-yl)-xanthine | C(#N)C=1C(=NC=CC1)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N1C(C=2C(C1=O)=CC=CC2)=O)C | C30H26N8O4
